US08378104B2
Step D: 3-bromo-4-fluorothieno[2,3-c]pyridine
To a solution of 4-fluorothieno[2,3-c]pyridine (100 mg, 0.653 mmol) and sodium acetate (109 mg, 1.30 mmol) in acetic acid (2.65 mL) was added bromine (101 uL, 1.96 mmol). The reaction was heated in a microwave at 90° C. for 90 min. The reaction was concentrated. Purification by ISCO chromatography (5 to 40% ethyl acetate:heptane) afforded 77 mg (51%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.96 (s, 1 H), 8.40 (d, J=2.3 Hz, 1 H), 7.67 (d, J=0.8 Hz, 1 H); MS (ESI): 231.99, 233.95 [M+H]+; HPLC tR=3.28 min (ZQ3, polar—4 min).

reactant | 4-fluorothieno[2,3-c]pyridine | 0.653 mmol, 100 mg | FC1=C2C(=CN=C1)SC=C2 | C7H4FNS
reactant | sodium acetate | 1.30 mmol, 109 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 1.96 mmol, 101 uL | BrBr | Br2
solvent | acetic acid | 2.65 mL | C(C)(=O)O | C2H4O2
product | 3-bromo-4-fluorothieno[2,3-c]pyridine | 77 mg, 51% | BrC1=CSC2=CN=CC(=C21)F | C7H3BrFNS
